US07863293B2
Using General Procedure B, reaction of 3-(1-methyl-1-phenyl-ethyl)-pyridine-2-carbaldehyde, 4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester and NaBH(OAc)3 in CH2Cl2 gave 4-{(5-Chloro-3-methyl-pyridin-2-ylmethyl)-[3-(1-methyl-1-phenyl-ethyl)-pyridin-2-ylmethyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester as a white solid. 1H NMR (CDCl3): δ 1.13 (q, 2H, J=11.1 Hz), 1.44 (s, 9H), 1.50 (br, 2H), 1.62 (s, 6H), 2.28 (s, 3H), 2.43 (m, 3H), 3.34 (s, 2H), 3.61 (s, 2H), 3.98 (br, 2H), 6.98 (m, 2H), 7.17 (m, 4H), 7.35 (s, 1H), 7.85 (d, 1H, J=7.2 Hz), 8.20 (s, 1H), 8.48 (d, 1H, J=3.9 Hz). Deprotection with TFA using General Procedure F gave (5-Chloro-3-methyl-pyridin-2-ylmethyl)-[3-(1-methyl-1-phenyl-ethyl)-pyridin-2-ylmethyl]-piperidin-4-yl-amine as a white solid.

reactant | 3-(1-methyl-1-phenyl-ethyl)-pyridine-2-carbaldehyde | CC(C)(C1=CC=CC=C1)C=1C(=NC=CC1)C=O | C15H15NO
reactant | 4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=C(C=C1C)Cl | C17H26ClN3O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-{(5-Chloro-3-methyl-pyridin-2-ylmethyl)-[3-(1-methyl-1-phenyl-ethyl)-pyridin-2-ylmethyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C(C)(C1=CC=CC=C1)C)CC1=NC=C(C=C1C)Cl | C32H41ClN4O2
